US08877801B2
(E)-3-(4-((2-(4-fluorophenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (48 mg, 0.115 mmol) was dissolved in DMF (3.00 mL). The vial was charged with HATU (65.6 mg, 0.173 mmol), DIEA (0.060 mL, 0.345 mmol), and NH4Cl (6.16 mg, 0.115 mmol). The reaction mixture was stirred for 10 min at room temperature. The reaction was quenched with sat. NH4Cl and diluted with DCM. The organic phase was collected (phase separator) and concentrated by vacuum to afford to crude product. The crude material was purified by reverse phase HPLC (neutral condition, 3% 1-propanol in 1-100% CH3CN/H2O) to afford (E)-3-(4-((2-(4-fluorophenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylamide (41 mg, 0.098 mmol, 85% yield) as a pale orange solid. 1H NMR (400 MHz, CD3OD) δ ppm=3.77 (s, 3H) 6.40 (d, J=15.66 Hz, 1H) 6.78-6.90 (m, 3H) 6.95-7.06 (m, 2H) 7.16 (d, J=8.59 Hz, 1H) 7.29-7.49 (m, 4H) 7.55-7.69 (m, 2H).

reactant | (E)-3-(4-((2-(4-fluorophenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.115 mmol, 48 mg | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)O | C24H17FO4S
reactant | HATU | 0.173 mmol, 65.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.345 mmol, 0.060 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | 0.115 mmol, 6.16 mg | [NH4+].[Cl-]
solvent | DMF | 3.00 mL | CN(C)C=O | C3H7NO
product | (E)-3-(4-((2-(4-fluorophenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylamide | 0.098 mmol, 41 mg, 85% yield | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)N | C24H18FNO3S
